US06239142B1
N-(4-chlorobenzyl)-7-(2-hydroxyethyl)-2-(3-hydroxypropyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide
To a solution of N-(4-chlorobenzyl)-4-hydroxy-2-(3-hydroxypropyl)-thieno[2,3-b]pyridine-5-carboxamide (Example No. 8) (0.330 g) in DMF (5 mL) are added K2CO3 (0.363 g) and 2-bromoethanol (0.19 mL). The reaction is heated to 100° C. and stirred for 18 h. An additional 0.19 mL of 2-bromoethanol is added and stirring is continued for 18 h. An additional 0.19 mL of 2-bromoethanol and 0.363 g of K2CO3 is added. After 5 h, 35 mg of NaH (60% oil dispersion) is added. The reaction is stirred for 1 h. The reaction mixture is cooled to rt and concentrated in vacuo. The residue is suspended in CH2Cl2 and H2O. The resulting off-white precipitate is filtered off and purified via column chromatography (CH2Cl2:CH3OH; 98:2, 95:5). Fractions homogeneous by TLC are combined and concentrated in vacuo to yield 0.145 g (39%) of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-2-(3-hydroxypropyl)-thieno[2,3-b]pyridine-5-carboxamide | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)CCCO)O)C=C1 | C18H17ClN2O3S
reactant | K2CO3 | 0.363 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoethanol | 0.19 mL | BrCCO | C2H5BrO
reactant | 2-bromoethanol | 0.19 mL | BrCCO | C2H5BrO
reactant | 2-bromoethanol | 0.19 mL | BrCCO | C2H5BrO
reactant | K2CO3 | 0.363 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaH | 35 mg | [H-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorobenzyl)-7-(2-hydroxyethyl)-2-(3-hydroxypropyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 0.145 g, 39% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CCO)SC(=C3)CCCO)=O)C=C1 | C20H21ClN2O4S
